US05095129
Under an inert atmosphere, 300 g of lithium aluminum hydride is provided in 3 1 of tetrahydrofran at 0° C. and treated in portions with 500 g of 5-amino-2-chlorobenzoic acid nindustrial, 85%). Thereafter the reaction mixture is heated slowly to room temperature and stirred over night at this temperature. For further processing the reaction mixture is cooled to 0° C. and the excessive lithium aluminum hydride is carefuly decomposed with saturated ammonium chloride solution. Thereafter the organic phase is separated from the deposit and this deposit is washed several times with acetic ester and methylene chloride. The united organic phases are washed neutral with saturated sodium chloride solution, dried over sodium sulfate and concentrated in vacuo. A yield of 242 g of crude 2-chloro-5-aminobenzyl alcohol is obtained the purity of which is adequate for subsequent reactions.

reactant | 5-amino-2-chlorobenzoic acid | 500 g | NC=1C=CC(=C(C(=O)O)C1)Cl | C7H6ClNO2
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ammonium chloride | [Cl-].[NH4+]
product | 2-chloro-5-aminobenzyl alcohol | yield of 242 g | ClC1=C(CO)C=C(C=C1)N | C7H8ClNO
